US08217066B2
Synthesis of 1-(4′-{4-[2-(2-Chloro-benzyloxy)-ethyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid (Compound 15)
Prepared according to the procedure described in Example 14, Step 4, using 1-{4′-[4-(2-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester and 1-bromomethyl-2-chloro-benzene.

reactant | 1-{4′-[4-(2-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CCO | C24H25NO4
reactant | 1-bromomethyl-2-chloro-benzene | BrCC1=C(C=CC=C1)Cl | C7H6BrCl
product | 1-(4′-{4-[2-(2-Chloro-benzyloxy)-ethyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid | ClC1=C(COCCC=2C(=NOC2C2=CC=C(C=C2)C2=CC=C(C=C2)C2(CC2)C(=O)O)C)C=CC=C1 | C29H26ClNO4
